US05686445
5-(4-Aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine
To a solution of 4.5 g of 6,11-dihydro-5-(4-nitrobenzoyl)-5H-dibenz[b,e]azepine in 230 ml of glacial acetic acid is added 0.58 g of 10% palladium-on-carbon and the mixture under hydrogen (38 psi) shaken in a Parr hydrogenator for 6.5 hours. The mixture is filtered through diatomaceous earth and the filtrate concentrated to give 4.0 g of solid. The solid is extracted with 100 ml of dichloromethane and the extract washed with water, dried (Na2 SO4). The solvent is removed to give 4.0 g of yellow crystals, m.p. 168°-175° C. A sample chromatographed on a thick layer silica gel plate with hexane-ethyl acetate (8:7) as solvent gives yellow crystals, m.p. 173°-175° C.

reactant | 6,11-dihydro-5-(4-nitrobenzoyl)-5H-dibenz[b,e]azepine | 4.5 g | [N+](=O)([O-])C1=CC=C(C(=O)N2C3=C(CC4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C21H16N2O3
solvent | acetic acid | 230 ml | C(C)(=O)O | C2H4O2
catalyst | palladium-on-carbon | 0.58 g | [Pd] | Pd
product | 5-(4-Aminobenzoyl)-6,11-dihydro-5H-dibenz[b,e]azepine | 4.0 g | NC1=CC=C(C(=O)N2C3=C(CC4=C(C2)C=CC=C4)C=CC=C3)C=C1 | C21H18N2O
